US03960856
4-Hydroxy-3-(5-Methyl-3-Isoxazolylcarbamoyl)-2-Methyl-2H-1,2-Benzothiazine 1,1-Dioxide
To an appropriate flask equipped for reflux and/or distillation, 900 ml xylene, 40 grams (0.149 moles) methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide and 19.94 grams (0.203 moles) of 3-amino-5-methylisoxazole are added. The mixture is refluxed for 13-18 hours. At 1 hour intervals, about 3-4% of the solvent volume is distilled off. Every 4 to 5 hours fresh xylene is added, equal in amount to that distilled during this period. At the end of the heating period, the reaction is cooled to 25°C., filtered and the cake is washed with xylene. After drying, the crude product weighed 43.8 grams (88%). This material could be recrystallized from about 40-50 volumes of dioxane with an 80-85% recovery of acceptable material. An alternate procedure for the purification of crude product is as follows:

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 0.149 moles, 40 grams | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 3-amino-5-methylisoxazole | 0.203 moles, 19.94 grams | NC1=NOC(=C1)C | C4H6N2O
solvent | xylene | 900 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-3-(5-Methyl-3-Isoxazolylcarbamoyl)-2-Methyl-2H-1,2-Benzothiazine 1,1-Dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(NC2=NOC(=C2)C)=O | C14H13N3O5S
